US03956260
6. H-Gly-Phe-Gly-Pro-Glu(OtBu)-Thr(tBu)-Pro-OtBu
858 mg of Z-Gly-Phe-Gly-Pro-Glu(OtBu)-Thr(tBu)-Pro-OtBu are hydrogenated in 150 ml of methanol in the presence of 200 mg of palladium-carbon catalyst (10% Pd). The product is triturated with ether×hexane (1:1) to form an amorphous powder. In the thin-layer chromatogram on silica gel it shows the following values:

reactant | Z-Gly-Phe-Gly-Pro-Glu(OtBu)-Thr(tBu)-Pro-OtBu | 858 mg | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N1[C@H](C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N2[C@H](C(=O)OC(C)(C)C)CCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C52H75N7O13
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | H-Gly-Phe-Gly-Pro-Glu(OtBu)-Thr(tBu)-Pro-OtBu | NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N1[C@H](C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N2[C@H](C(=O)OC(C)(C)C)CCC2)CCC1 | C44H69N7O11
